US09340510B2
6-Cyclopropylmethoxy-4-oxo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To 600 mg (1.88 mmol) 6-cyclopropylmethoxy-4-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (example XLIII.1) in 6 mL DCM are added 825 mg (1.88 mmol) Dess-Martin periodinane and the resulting mixture is stirred at r.t. over night. The reaction mixture is diluted with water and extracted with DCM. The organic layer is concentrated by evaporation and the residue is purified by HPLC (ACN/H2O/HCOOH).

reactant | 6-cyclopropylmethoxy-4-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.88 mmol, 600 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)O)OCC1CC1 | C18H25NO4
reactant | Dess-Martin periodinane | 1.88 mmol, 825 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6-Cyclopropylmethoxy-4-oxo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)=O)OCC1CC1 | C18H23NO4
